US05324725
30 g of quinoline were dissolved in 100 ml tetrahydrofuran. The solution was cooled to 2° C., then 19.6 g of phenyllithium in the form of a 2M solution in a 70:30 mixture of cyclohexane and diethyl ether were added over the course of 2 hours while the temperature was maintained between 0° and 2° C. The reaction mixture was then allowed to warm to room temperature. To work up the reaction mixture it was added to water and then extracted with diethyl ether. The ether phase was washed with water until neutral, dried and concentrated. 50 g of crude product were obtained, which was purified by chromatography on a silica gel column using toluene as the eluent. 20.3 g of 1,2-dihydro-2-phenylquinoline having a melting point of 75° C. were obtained.

reactant | quinoline | 30 g | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | phenyllithium | 19.6 g | C1(=CC=CC=C1)[Li]
reactant | cyclohexane | C1CCCCC1 | C6H12
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1,2-dihydro-2-phenylquinoline | 20.3 g | C1(=CC=CC=C1)C1NC2=CC=CC=C2C=C1 | C15H13N
